US07700616B2
7-methoxy-2-(4-bromophenyl)-imidazo[2,1-b]benzothiazole (1)
In the minimum volume of EtOH was dissolved the commercially available 2-amino-6-methoxybenzothiazole (2 mmol), then 2,4′-dibromoacetophenone (2 mmol) was added and the resulting mixture was refluxed for 5 h before addition of NaHCO3 (3 mmol). After 2 h more of reflux, the precipitate was filtered off, washed with a mixture 1/1 AcOEt/hexane and dried in vacuum and then used in the next step, optionally, without further purification. The result was a white solid as a 54% yield.

reactant | 2-amino-6-methoxybenzothiazole | 2 mmol | NC=1SC2=C(N1)C=CC(=C2)OC | C8H8N2OS
reactant | 2,4′-dibromoacetophenone | 2 mmol | BrCC(=O)C1=CC=C(C=C1)Br | C8H6Br2O
reactant | NaHCO3 | 3 mmol | C(=O)(O)[O-].[Na+]
solvent | EtOH | CCO | C2H6O
product | 7-methoxy-2-(4-bromophenyl)-imidazo[2,1-b]benzothiazole | 54% yield | COC1=CC2=C(N3C(S2)=NC(=C3)C3=CC=C(C=C3)Br)C=C1 | C16H11BrN2OS
